US07595312B2
11a 4-amino-3,5-bis-trifluoromethyl-benzaldehyde
A solution of 5 g (19.67 mmol) 4-amino-3,5-bis-trifluoromethyl-benzonitrile in 30 mL formic acid was shaken in 10 equal portions in pressurised containers for 20 h at 110° C.

reactant | 4-amino-3,5-bis-trifluoromethyl-benzonitrile | 19.67 mmol, 5 g | NC1=C(C=C(C#N)C=C1C(F)(F)F)C(F)(F)F | C9H4F6N2
reactant | formic acid | 30 mL | C(=O)O | CH2O2
product | 4-amino-3,5-bis-trifluoromethyl-benzaldehyde | NC1=C(C=C(C=O)C=C1C(F)(F)F)C(F)(F)F | C9H5F6NO
